US07250417B2
Step 2: Preparation of 4-[(3-amino-6-thiophen-2-yl-pyrazin-2-ylamino)-methyl]-phenol
A mixture of 4-[(3-amino-6-bromo-pyrazin-2-ylamino)-methyl]-phenol (25 mg, 0.085 mmol), 2-thiopheneboronic acid (13 mg, 0.10 mmol), Pd(PPh3)2Cl2 (2 mg, 0.0028 mmol), and NaHCO3 (21 mg, 0.25 mmol) in DME (0.5 mL) and water (0.15 mL) was put in a microwave reaction tube and reacted in a microwave reactor at 110° C. for 7 minutes. The reaction mixture was partitioned in ethyl acetate and water, and the organic layer was evaporated. The residue was purified on a C-18 reversed phase preparative HPLC eluting with Methanol/Acetonitrile containing 0.1% trifluoroacetic acid to 4-[(3-amino-6-thiophen-2-yl-pyrazin-2-ylamino)-methyl]-phenol trifluoroacetic add salt as a white solid (12 mg).

reactant | 4-[(3-amino-6-bromo-pyrazin-2-ylamino)-methyl]-phenol | 0.085 mmol, 25 mg | NC=1C(=NC(=CN1)Br)NCC1=CC=C(C=C1)O | C11H11BrN4O
reactant | 2-thiopheneboronic acid | 0.10 mmol, 13 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | NaHCO3 | 0.25 mmol, 21 mg | C(=O)(O)[O-].[Na+]
solvent | DME | 0.5 mL | COCCOC | C4H10O2
solvent | water | 0.15 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.0028 mmol, 2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[(3-amino-6-thiophen-2-yl-pyrazin-2-ylamino)-methyl]-phenol | NC=1C(=NC(=CN1)C=1SC=CC1)NCC1=CC=C(C=C1)O | C15H14N4OS
